US07932270B2
A solution of N-((6-bromopyridin-2-yl)methyl)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamide (50 mg, 0.095 mmol) and propane-1,3-diamine (396 ul, 4.75 mmol) in NMP was stirred in microwave at 15° C. for 15 min. The reaction mixture was purified on RP-HPLC using a mixture of acetonitrile and H2O gave N-((6-(3-aminopropylamino)pyridin-2-yl)methyl)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamide (28 mg, 56%). LRMS (M+H+) m/z 524.1.

reactant | N-((6-bromopyridin-2-yl)methyl)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamide | 0.095 mmol, 50 mg | BrC1=CC=CC(=N1)CNC(C1=C(N=C(C=C1)C1=C(C=CC=C1)C#N)NCCC1=CC(=CC=C1)F)=O | C27H21BrFN5O
reactant | propane-1,3-diamine | 4.75 mmol, 396 ul | C(CCN)N | C3H10N2
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-((6-(3-aminopropylamino)pyridin-2-yl)methyl)-6-(2-cyanophenyl)-2-(3-fluorophenethylamino)nicotinamide | 28 mg, 56% | NCCCNC1=CC=CC(=N1)CNC(C1=C(N=C(C=C1)C1=C(C=CC=C1)C#N)NCCC1=CC(=CC=C1)F)=O | C30H30FN7O
